US06573293B2
5-Formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (2-ethylamino-ethyl)-amide (99 g), ethanol (400 mL), 5-fluoro-2-oxindole (32 g) and pyrrolidine (1.5 g) were refluxed for 3 hours with stirring. The mixture was cooled to room temperature and the solids collected by vacuum filtration. The solids were stirred in ethanol at 60° C., cooled to room temperature and collected by vacuum filtration. The product was dried under vacuum to give 5-[5-fluoro-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (2-ethylamino-ethyl)-amide (75 g, 95% yield). 1H-NMR (dimethylsulfoxide-d6) δ 1.03 (t, 3H, CH3), 2.42, 2.44 (2×s, 6H, 2×CH3), 2.56 (q, 2H, CH2), 2.70, 3.30 (2×t, 4H, 2×CH2), 6.85, 6.92, 7.58, 7.72, 7.76 (5×m, 5H, aromatic, vinyl and CONH), 10.90 (br s, 1H, CONH), 13.65 (br s, 1H, pyrrole NH).

reactant | 5-Formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (2-ethylamino-ethyl)-amide | 99 g | C(C)NCCNC(=O)C1=C(NC(=C1C)C=O)C | C12H19N3O2
reactant | 5-fluoro-2-oxindole | 32 g | FC=1C=C2CC(NC2=CC1)=O | C8H6FNO
reactant | pyrrolidine | 1.5 g | N1CCCC1 | C4H9N
solvent | ethanol | 400 mL | C(C)O | C2H6O
product | 5-[5-fluoro-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (2-ethylamino-ethyl)-amide | 75 g, 95% yield | C(C)NCCNC(=O)C1=C(NC(=C1C)\C=C\1/C(NC2=CC=C(C=C12)F)=O)C | C20H23FN4O2
